US08084614B2
A mixture of 4-[4-bromo-5-chloro-2-(methyl-o-tolyl-carbamoyl)-phenoxy]-butyric acid tert-butyl ester (3.0 g, 6.1 mmol), bis(pinacolato)diboron (2.3 g, 9.1 mmol), PdCl2 (dppf)2 (354.0 mg, 0.48 mmol) and potassium acetate (1.78 g, 18.2 mmol) in dioxane (30 mL) was sealed after degassed with N2 for 5 min, and heated at 95° C. for 12 hrs. The mixture was filtered through celite to remove solids. The celite was washed by ethyl acetate several times. The combined solution was washed with water and brine, dried over MgSO4 and filtered. Concentration and purification by silica gel column chromatography eluting with ethyl acetate in hexanes (1/5) gave 4-[5-chloro-2-(methyl-o-tolyl-carbamoyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-butyric acid tert-butyl ester (3.0 g). MS: 544.0 (M+H)+; tR=2.90 min (method 1).

reactant | 4-[4-bromo-5-chloro-2-(methyl-o-tolyl-carbamoyl)-phenoxy]-butyric acid tert-butyl ester | 6.1 mmol, 3.0 g | C(C)(C)(C)OC(CCCOC1=C(C=C(C(=C1)Cl)Br)C(N(C1=C(C=CC=C1)C)C)=O)=O | C23H27BrClNO4
reactant | bis(pinacolato)diboron | 9.1 mmol, 2.3 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 18.2 mmol, 1.78 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 4-[5-chloro-2-(methyl-o-tolyl-carbamoyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-butyric acid tert-butyl ester | 3.0 g | C(C)(C)(C)OC(CCCOC1=C(C=C(C(=C1)Cl)B1OC(C(O1)(C)C)(C)C)C(N(C1=C(C=CC=C1)C)C)=O)=O | C29H39BClNO6
